US05500417
1,3,5-Tris(hydroxymethyl)benzene
A solution of trimethyl 1,3,5-benzenetricarboxylate (8.83 g, 0.035 M; Aldrich) in THF (125 mL) is added dropwise over a period of 45 minutes to a stirred mixture of lithium aluminum hydride (3.98 g, 0.105 M) and dry THF (150 mL) under a nitrogen atmosphere. The initial phase of the addition results in vigorous reaction and consequently the addition is very slow at first. As the ester solution is added, an orange mass forms when the drops came in contact with the LiAlH4 mixture. A yellowish-green mixture results and is stirred at room temperature. The excess LiAlH4 is quenched carefully by the addition of ethyl acetate and the resulting mixture is acidified with aqueous 2N HCl solution until the pH is <3 and aluminum salts have dissolved. The layers are separated and the aqueous layer is extracted 3 times with additional ethyl acetate and then with methylene chloride. The organic extract layers are dried (sodium sulfate), filtered, and concentrated under reduced pressure to give a white solid (2.98 g, 51%). Recrystallization from acetonitrile-methylene chloride gives the title compound as white crystals (1.13 g) which appear to be hygroscopic when collected by suction filtration. The crystals are dried several days over P2O5 in a vacuum desiccator after which they have amp of 76.5°-78° C.

reactant | trimethyl 1,3,5-benzenetricarboxylate | 0.035 M, 8.83 g | C1(=CC(=CC(=C1)C(=O)OC)C(=O)OC)C(=O)OC | C12H12O6
reactant | lithium aluminum hydride | 0.105 M, 3.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1,3,5-Tris(hydroxymethyl)benzene | 2.98 g, 51% | OCC1=CC(=CC(=C1)CO)CO | C9H12O3
